US08138377B2
B. Synthesis of 3-naphthalen-1-yl-cyclopent-2-enol
To a stirred solution of 3-napthalen-1-yl-cyclopent-2-enone (3.36 g, 16.13 mmol) in ethanol (150 mL) was added cerium trichloride (3.98 g, 16.13 mmol) followed portion-wise by sodium borohydride (0.73 g, 19.36 mmol, 1.2 eq.) at room temperature. The reaction mixture was stirred for 0.5 h, until the reaction was shown to be complete by TLC. The reaction was quenched by the addition of saturated aqueous ammonium chloride (100 mL) and the organics were removed in vacuo. The remaining aqueous layer was further diluted with water (100 mL) and extracted with dichloromethane (3×200 mL). The organic extracts were combined, dried over magnesium sulphate and concentrated in vacuo. The crude oil was purified by flash chromatography (SiO2, ethyl acetate:petroleum ether 40-60; 20%:80%) to afford the desired compound as a yellow oil (2.49 g, 74%). 1H NMR (400 MHz, CDCl3) δ ppm 2.01-2.04 (1H, m, CH), 2.44-2.45 (1H, m, CH), 2.77-2.78 (1H, m, CH), 2.93-2.95 (1H, m, CH), 3.60 (1H, q, J 1.3 Hz, CH), 6.07 (1H, q, J 1.3 Hz, CH), 7.24-7.35 (4H, m, ArH), 7.75 (1H, d, J 8.0 Hz, ArH), 7.78 (1H, d, J 8.0 Hz, ArH), 8.15 (1H, d, J 8.0 Hz, ArH).

reactant | 3-napthalen-1-yl-cyclopent-2-enone | 16.13 mmol, 3.36 g | C1(=CC=CC2=CC=CC=C12)C1=CC(CC1)=O | C15H12O
reactant | cerium trichloride | 16.13 mmol, 3.98 g | [Cl-].[Cl-].[Cl-].[Ce+3]
reactant | sodium borohydride | 19.36 mmol, 0.73 g, 1.2 eq. | [BH4-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-naphthalen-1-yl-cyclopent-2-enol | 2.49 g, 74% | C1(=CC=CC2=CC=CC=C12)C1=CC(CC1)O | C15H14O
